US08809389B2
Synthesis of 1-(propargyloxy)-3,4-dimethoxybenzene
Following the same procedure as in Example 1, 13.8 g (0.1 mole) of 1-hydroxy-3,4-dimethoxybenzene, 13.8 g (0.1 mole) of anhydrous potassium carbonate in ml 50 of acetone and 14.9 g (0.1 mole) of a solution of propargyl bromide in toluene (80% w/w) were reacted. After work up and evaporation of the mixture u.v. (25° C./21 mbar) a residue was obtained that was purified on silica gel column (eluant n-hexane:ethyl acetate 5:1 v/v). A thick oil that after some time solidified with low melting point (28-30° C.) (b.p.: 109-110° C./ 3 mbar) was obtained whose NMR and MS analyses corresponded to those of the aforementioned compound.

reactant | 1-hydroxy-3,4-dimethoxybenzene | 0.1 mole, 13.8 g | OC1=CC(=C(C=C1)OC)OC | C8H10O3
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(propargyloxy)-3,4-dimethoxybenzene | C(C#C)OC1=CC(=C(C=C1)OC)OC | C11H12O3
